US04200641
A mixture of 4.5 parts of 1-(3-chloropropyl)-1H-benzimidazole, 5.1 parts of 1-(diphenylmethyl)piperazine, 3.7 parts of sodium carbonate, 0.1 parts of potassium iodide and 80 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of 4-methyl-2-pentanone and 2,2'-oxybispropane, yielding 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1H-benzimidazole; mp. 132.3° C.

reactant | 1-(3-chloropropyl)-1H-benzimidazole | ClCCCN1C=NC2=C1C=CC=C2 | C10H11ClN2
reactant | 1-(diphenylmethyl)piperazine | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1H-benzimidazole | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C=NC2=C1C=CC=C2)C2=CC=CC=C2 | C27H30N4
